US03952017
20 g. of Gilman alloy are covered with 40 ml. of dry ether and treated with 0.5 ml. of methyl iodide. After the vigorous reaction has subsided somewhat, a solution containing 80 ml. of 1chloro-3-dimethylaminopropane in 360 ml. of dry ether is added dropwise in such a way that the reaction mixture is maintained at boiling. The mixture is stirred at 45° C. under reflux conditions for an additional 5 hours. The reaction mixture is then cooled with ice-water and a solution containing 43.6 g. of 1-methyl-5H-dibenzo[a,d]cyclohepten-5-one in 820 ml. of dry ether is added over a one-hour period. Subsequently, the mixture is boiled and stirred at reflux for another 17 hours. After about 12 hours, it is once more cooled with ice water and decomposed with a cold saturated ammonium chloride solution. The organic layer is separated, washed with water, dried over sodium sulfate and evaporated. The 1-methyl-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene obtained is recrystallized from high-boiling petroleum ether and has a melting point of 141°-143° C.

reactant | methyl iodide | CI | CH3I
reactant | 1chloro-3-dimethylaminopropane | ClCCCN(C)C | C5H12ClN
reactant | 1-methyl-5H-dibenzo[a,d]cyclohepten-5-one | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C16H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 1-methyl-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)(O)CCCN(C)C | C21H25NO
